US04198414
4,4,6-Trimethyl-4H-pyrrolo[3,2,1-ij]quinolin-1,2-dione
A solution of 1,2-dihydro-2,2,4-trimethylquinoline (34.6 g., 0.2 mole) in 50 ml. dry methylene chloride was added slowly dropwise to oxalyl chloride (26.4 g., 0.21 mole) in 300 ml. dry methylene chloride. Addition required 45 min., and when complete the resultant solution was stirred at ambient temperature 4 hrs. and refluxed 2 hrs. The dark red solution was freed of solvent at reduced pressure and the very dark solid residue taken up in chloroform. Dilution with ligroine and chilling produced a total yield of 32.6 g. (71.8%); m.p. 170°-176° C. A sample repeatedly recrystallized from toluene-ligroine (1:4) melted at 176°-177.5° C.

reactant | 1,2-dihydro-2,2,4-trimethylquinoline | 0.2 mole, 34.6 g | CC1(NC2=CC=CC=C2C(=C1)C)C | C12H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.21 mole, 26.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,4,6-Trimethyl-4H-pyrrolo[3,2,1-ij]quinolin-1,2-dione | CC1(N2C3=C(C=CC=C3C(=C1)C)C(C2=O)=O)C | C14H13NO2
